US05204011
Preparation of 2,2-Bis[4-(4-tert-butylbenzenesulfonyloxy) phenyl]propane
An oven-dried 50 ml 3 necked flask is equipped with a magnetic stirring bar and reflux condenser carrying a CaCl2 drying tube and is charged with 4-tert-butylbenzenesulfonyl chloride 9.3 grams (40 mmol), 4,4'-isopropylidenediphenol (4.11 grams, 18 mmol), 4-dimethylaminopyridine 0.11 gram, 0 9 mmol), and anhydrous pyridine (20 ml). and the mixture is stirred and heated at reflux for 14 hours. Workup consists of partitioning the mixture between Et2O and H2O (50 ml each), washing the organic phase successively with 100 ml portions of H2O (2×), 5 percent HCl (2×). H2O, saturated (2×), H2O and brine, then drying (MgSO4). filtration and concentration. This gives 10.41 grams of a pale yellow sold. Three consecutive recrystallizations from EtOH-MeOH (2:1) affords 7.87 grams (70 percent yield) of the title compound as white prisms. m.p. 124° C. to 127° C.

reactant | 4-tert-butylbenzenesulfonyl chloride | 40 mmol, 9.3 grams | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | 4,4'-isopropylidenediphenol | 18 mmol, 4.11 grams | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
catalyst | 4-dimethylaminopyridine | 0.11 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Bis[4-(4-tert-butylbenzenesulfonyloxy) phenyl]propane | 7.87 grams, 70 percent yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C35H40O6S2
